US08664217B2
A 4N-hydrogen chloride ethyl acetate solution (0.57 ml) was added to an ethyl acetate solution (1 ml) of 2-nitro-N-(2-pyridin-3-ylethyl)-N-[3-(1,3,3,5-tetramethyl-2,4-dioxo-2,3,4,5-tetrahydro-1H-benzo[b][1,4]diazepin-7-yloxy)propyl]benzenesulfonamide (236 mg), and stirred at room temperature for 1 minute. The precipitated insoluble matter was collected by filtration, washed with ethyl acetate, and dried to thereby obtain 163 mg (yield: 65%) of 2-nitro-N-(2-pyridin-3-ylethyl)-N-[3-(1,3,3,5-tetramethyl-2,4-dioxo-2,3,4,5-tetrahydro-1H-benzo[b][1,4]diazepin-7-yloxy)propyl]benzenesulfonamide hydrochloride as a white powder.

reactant | hydrogen chloride ethyl acetate | 0.57 ml | C(C)OC(C)=O.Cl
reactant | 2-nitro-N-(2-pyridin-3-ylethyl)-N-[3-(1,3,3,5-tetramethyl-2,4-dioxo-2,3,4,5-tetrahydro-1H-benzo[b][1,4]diazepin-7-yloxy)propyl]benzenesulfonamide | 236 mg | [N+](=O)([O-])C1=C(C=CC=C1)S(=O)(=O)N(CCCOC1=CC2=C(N(C(C(C(N2C)=O)(C)C)=O)C)C=C1)CCC=1C=NC=CC1 | C29H33N5O7S
solvent | ethyl acetate | 1 ml | C(C)(=O)OCC | C4H8O2
product | 2-nitro-N-(2-pyridin-3-ylethyl)-N-[3-(1,3,3,5-tetramethyl-2,4-dioxo-2,3,4,5-tetrahydro-1H-benzo[b][1,4]diazepin-7-yloxy)propyl]benzenesulfonamide hydrochloride | 163 mg, yield: 65% | Cl.[N+](=O)([O-])C1=C(C=CC=C1)S(=O)(=O)N(CCCOC1=CC2=C(N(C(C(C(N2C)=O)(C)C)=O)C)C=C1)CCC=1C=NC=CC1 | InChI=1S/C29H33N5O7S.ClH/c1-29(2)27(35)31(3)23-13-12-22(19-25(23)32(4)28(29)36)41-18-8-16-33(17-14-21-9-7-15-30-20-21)42(39,40)26-11-6-5-10-24(26)34(37)38;/h5-7,9-13,15,19-20H,8,14,16-18H2,1-4H3;1H
